US05461035
2b. H-Asn-Tyr(tBu)-Cys(Trt)-Asn-OtBu
1.9 g (1.74 mmol) of Fmoc-Asn-Tyr(tBu)-Cys(Trt)-Asn-OtBu are dissolved in 50 ml of dimethylformamide. To this are added 1.8 ml of diethylamine, and the mixture is left to stand at room temperature for 15 minutes. It is then concentrated under high vacuum, and the residue is triturated with ethyl acetate and dried in vacuo. Yield 0.98 g (65%). C47H58N6O8S (867.081), [α]D21 =-7.2° (c=1, in methanol)

reactant | Fmoc-Asn-Tyr(tBu)-Cys(Trt)-Asn-OtBu | 1.74 mmol, 1.9 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C62H68N6O10S
reactant | diethylamine | 1.8 ml | C(C)NCC | C4H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | H-Asn-Tyr(tBu)-Cys(Trt)-Asn-OtBu | N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C47H58N6O8S
